US07956191B2
2-Bromo-N-(2,4-dihydroxy-butoxy)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinamide was synthesized as described in General method 3: To a solution of 2-bromo-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-5-[(2-fluoro-4-iodophenyl)amino]-isonicotinamide (100.0 mg 0.18 mmol) in dichloromethane (1 ml) was added trifluoroacetic acid (1 ml) at RT. The reaction mixture was stirred at RT for 30 min, and monitored by TLC (Hex:EtOAc=1:1 and contain TEA). Upon completion, the volatiles were evaporated, and the residue was dissolved in dichloromethane, washed with 5% aq. NaHCO3 to get a precipitate. The residue was filtered, washed with water, and dried to get 53 mg (56%) of 2-Bromo-N-(2,4-dihydroxy-butoxy)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinamide. LC/MS: [8.76 min, 541 (M+1)]

reactant | 2-bromo-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-5-[(2-fluoro-4-iodophenyl)amino]-isonicotinamide | 0.18 mmol, 100.0 mg | BrC=1C=C(C(=O)NOC[C@@H]2OC(OC2)(C)C)C(=CN1)NC1=C(C=C(C=C1)I)F | C18H18BrFIN3O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-Bromo-N-(2,4-dihydroxy-butoxy)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinamide | 53 mg, 56% | BrC=1C=C(C(=O)NOCC(CCO)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C16H16BrFIN3O4
